US07199147B2
To a solution of 5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazole (3.69 g, 14.9 mmol) in a mixture of ethyl acetate (50 ml) and ethanol (50 ml) was added 10% Pd—C (300 mg), followed by catalytic reduction at ordinary temperature and atmospheric pressure. After completion or the reaction, the catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The resulting residue was suspended in ethyl acetate, and the solid precipitated was collected by filtration and dried under reduced pressure to obtain 1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine (1.79 g, 55%).

reactant | 5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazole | 14.9 mmol, 3.69 g | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)C1OCCCC1 | C12H13N3O3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | 1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine | 1.79 g, 55% | O1C(CCCC1)N1N=CC2=CC(=CC=C12)N | C12H15N3O
